US07741321B2
To a suspension of crude 1-[4-(2,2-diethoxy-ethoxy)-phenyl]-cyclopropanecarboxylic acid (20 g, ˜65 mmol) in xylene (100 mL) was added PPA (22.2 g, 64.9 mmol) at room temperature. The mixture was heated at reflux (140° C.) for 1 hour before it was cooled to room temperature and decanted from the PPA. The solvent was evaporated under vacuum to obtain the crude product, which was purified by preparative HPLC to provide 1-(benzofuran-5-yl)cyclopropanecarboxylic acid (1.5 g, 5%). 1H NMR (400 MHz, DMSO-d6) δ 12.25 (br s, 1H), 7.95 (d, J=2.8 Hz, 1H), 7.56 (d, J=2.0 Hz, 1H), 7.47 (d, J=11.6 Hz, 1H), 7.25 (dd, J=2.4, 11.2 Hz, 1H), 6.89 (d, J=1.6 Hz, 1H), 1.47-1.44 (m, 2H), 1.17-1.14 (m, 2H).

reactant | 1-[4-(2,2-diethoxy-ethoxy)-phenyl]-cyclopropanecarboxylic acid | ˜65 mmol, 20 g | C(C)OC(COC1=CC=C(C=C1)C1(CC1)C(=O)O)OCC | C16H22O5
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(benzofuran-5-yl)cyclopropanecarboxylic acid | 1.5 g, 5% | O1C=CC2=C1C=CC(=C2)C2(CC2)C(=O)O | C12H10O3
